US07488823B2
Step E: [6-(3-Amino-prop-1-ynyl)-quinazolin-4-yl]-[3-methyl-4-(6-methyl-pyridin-3-yloxy)-phenyl]-amine.
To a suspension of (3-{4-[3-methyl-4-(6-methyl-pyridin-3-yloxy)-phenylamino]-quinazolin-6-yl}-prop-2-ynyl)-carbamic acid tert-butyl ester (1.22 g, 2.46 mmol) in CH2Cl2 (3 mL) was added TFA (3 mL) dropwise. The reaction was stirred at room temperature for 30 minutes. The reaction mixture was then diluted with CH2Cl2 (30 mL) and aqueous saturated sodium bicarbonate. Phases were separated and the aqueous layer was extracted with CH2Cl2 (30 mL). Organic layers were combined, dried over sodium sulfate and concentrated to give the crude product (0.85 g, 88%) as a yellow oil.

reactant | (3-{4-[3-methyl-4-(6-methyl-pyridin-3-yloxy)-phenylamino]-quinazolin-6-yl}-prop-2-ynyl)-carbamic acid tert-butyl ester | 2.46 mmol, 1.22 g | C(C)(C)(C)OC(NCC#CC=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C)=O | C29H29N5O3
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | [6-(3-Amino-prop-1-ynyl)-quinazolin-4-yl]-[3-methyl-4-(6-methyl-pyridin-3-yloxy)-phenyl]-amine | 0.85 g, 88% | NCC#CC=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C | C24H21N5O
